US06927228B2
(d) Methyl ethyl 2-{3′-[(heptanoylmethylamino)-methyl]biphenyl-4-ylmethylene}succinate
In a manner similar to that of Example 37(e), by reacting 1.5 g (4.2 mmol) of methyl ethyl 2-(3′-methylaminomethylbiphenyl-4-ylmethylene)succinate with 740 μl (4.8 mmol) of heptanoyl chloride, and after purification, 1.8 g (89%) of the expected product are obtained.

reactant | methyl ethyl 2-(3′-methylaminomethylbiphenyl-4-ylmethylene)succinate | 4.2 mmol, 1.5 g | CNCC=1C=C(C=CC1)C1=CC=C(C=C1)C=C(C(=O)OC)CC(=O)OCC | C22H25NO4
reactant | heptanoyl chloride | 4.8 mmol, 740 μl | C(CCCCCC)(=O)Cl | C7H13ClO
product | Methyl ethyl 2-{3′-[(heptanoylmethylamino)-methyl]biphenyl-4-ylmethylene}succinate | C(CCCCCC)(=O)N(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)C=C(C(=O)OC)CC(=O)OCC | C29H37NO5
